US04021479
4-(3'-Chloro-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(3'-chloro-4-biphenylyl)-4-oxo-butyric acid. Melting point of the cyclohexylamine salt: 160°-161° C. (from ethyl acetate by addition of methanol). Yield: 65% of theory.

reactant | 4-(3'-chloro-4-biphenylyl)-4-oxo-butyric acid | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13ClO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 4-(3'-Chloro-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 65% | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15ClO3
